US08476286B2
B. Synthesis of 1-cyclohexylmethyl-4-(4-isopropyl-phenyl)-6,7-dimethoxy-1H-quinazolin-2-one
To a solution of 50 mg (0.126 mmol) (2-amino-4,5-dimethoxy-phenyl)-(4-isopropyl-phenyl)-methanone in 1 ml acetic acid are added 8 mg (0.126 mmol) sodium cyanate. After stirring for 24 h at rt the solvent is evaporated and the residue is extracted with dichloromethane/0.1 M NaOH. Recrystallisation from ether/hexanes yields the title compound.

reactant | (2-amino-4,5-dimethoxy-phenyl)-(4-isopropyl-phenyl)-methanone | 0.126 mmol, 50 mg | NC1=C(C=C(C(=C1)OC)OC)C(=O)C1=CC=C(C=C1)C(C)C | C18H21NO3
reactant | sodium cyanate | 0.126 mmol, 8 mg | [O-]C#N.[Na+]
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | 1-cyclohexylmethyl-4-(4-isopropyl-phenyl)-6,7-dimethoxy-1H-quinazolin-2-one | C1(CCCCC1)CN1C(N=C(C2=CC(=C(C=C12)OC)OC)C1=CC=C(C=C1)C(C)C)=O | C26H32N2O3
